US06787560B2
N-(2-(1-naphthyl)ethyl)-4-(2-bromo-5-methoxybenzyl)piperidine
Methanesulfonyl chloride (100 μl, 1.26 mmol) was added dropwise to a solution of 1-naphthylethanol (206 mg, 1.20 mmol) and triethylamine (350 μl, 2.40 mmol) in dichloromethane (2 ml) under ice-cooling and stirred for 3 hours. The solvent was distilled off and the resulting residue was dissolved in acetonitrile (3 ml) together with a base converted from 4-(2-bromo-5-methoxybenzyl)piperidine hydrochloride (384 mg, 1.20 mmol) according to the method described in Example 11, potassium iodide (199 mg, 1.20 mmol) and potassium carbonate (332 mg, 2.40 mmol). The resulting solution was heated under reflux for 3.5 hours and then allowed to cool. The precipitate was filtered off and the filtrate was concentrated, and then the residue was purified by a silica gel column chromatography (chloroform:methanol=20:1) to obtain the title compound (425 mg, 81%) as a light-brown solid.

reactant | Methanesulfonyl chloride | 1.26 mmol, 100 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | 1-naphthylethanol | 1.20 mmol, 206 mg | C1(=CC=CC2=CC=CC=C12)C(C)O | C12H12O
reactant | triethylamine | 2.40 mmol, 350 μl | C(C)N(CC)CC | C6H15N
reactant | 4-(2-bromo-5-methoxybenzyl)piperidine hydrochloride | 1.20 mmol, 384 mg | Cl.BrC1=C(CC2CCNCC2)C=C(C=C1)OC
reactant | potassium iodide | 1.20 mmol, 199 mg | [I-].[K+]
reactant | potassium carbonate | 2.40 mmol, 332 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | N-(2-(1-naphthyl)ethyl)-4-(2-bromo-5-methoxybenzyl)piperidine | 425 mg, 81% | C1(=CC=CC2=CC=CC=C12)CCN1CCC(CC1)CC1=C(C=CC(=C1)OC)Br | C25H28BrNO
